US04472316
The procedure in Example 17(1) was followed, except that 6.74 g of 3-[4-(3,4-dichlorophenoxy)benzoyl]acrylic acid were used in place of 3-[4-(4-methylphenoxy)benzoyl]acrylic acid, to give 5.42 g of ethyl 3-[4-(3,4-dichlorophenoxy)-benzoyl]acrylate.

reactant | 3-[4-(3,4-dichlorophenoxy)benzoyl]acrylic acid | 6.74 g | ClC=1C=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=CC1Cl | C16H10Cl2O4
reactant | 3-[4-(4-methylphenoxy)benzoyl]acrylic acid | CC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=C1 | C17H14O4
product | ethyl 3-[4-(3,4-dichlorophenoxy)-benzoyl]acrylate | 5.42 g | ClC=1C=C(OC2=CC=C(C(=O)C=CC(=O)OCC)C=C2)C=CC1Cl | C18H14Cl2O4
